US06982259B2
To a solution of 3-[(6-(imidazol-1-yl)pyridazin-3-yl)oxy]-1-benzylpiperidine (400 mg) in methanol (20 mL) was added 10% Pd/C (0.4 g), and HCO2NH4 (0.6 g). The mixture was heated at reflux under N2 for 1 hour. After cooling to ambient temperature, Pd/C was filtered off. The filtrate was concentrated in vacuo, giving 3-[(6-(imidazol-1-yl)pyridazin-3-yl)oxy]piperidine (240 mg) as an oil, which was used in Example 3 without further purification.

reactant | 3-[(6-(imidazol-1-yl)pyridazin-3-yl)oxy]-1-benzylpiperidine | 400 mg | N1(C=NC=C1)C1=CC=C(N=N1)OC1CN(CCC1)CC1=CC=CC=C1 | C19H21N5O
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 0.4 g | [Pd] | Pd
product | 3-[(6-(imidazol-1-yl)pyridazin-3-yl)oxy]piperidine | 240 mg | N1(C=NC=C1)C1=CC=C(N=N1)OC1CNCCC1 | C12H15N5O
